US09107916B2
B. 2-[5-[(2-chloro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-chloro-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.35 (3H, s), 5.30 (2H, s), 5.80 (1H, d, J=1.6 Hz), 7.10 (1H, d, J=8.4 Hz), 7.25 (1H, d, J=3.2 Hz), 7.40 (2H, dd, J=1.2 Hz, 5.2 Hz), 7.58 (1H, d, J=2.4 Hz), 8.06 (1H, s), 8.71 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H13ClN4O, 325. Found, 325.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-chloro-4-methylphenyl)methanol | ClC1=C(C=CC(=C1)C)CO | C8H9ClO
product | 2-[5-[(2-chloro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C17H13ClN4O
